US06121307
[2-(6-Fluorochroman-8-yloxy)ethyl]-[2-(1H-indol-3-yl)ethyl]-amine
A solution of 2-(6-fluorochroman-8-yloxy)ethylchloride (0.41 g, 2.2 mmol), 3-(2-bromoethyl)indole (0.25 g, 1.1 mmol) and triethylamine (0.23 g, 2.2 mmol) in anhydrous dimethylsulfoxide (20 ml) was allowed to stir for 12 hours at 90° C. The mixture was poured into water (100 ml) and extracted with methylene chloride (3×100 ml). The organic layer was washed with water (3×150 ml), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. Chromatography (10% methanol-methylene chloride plus ammonium hydroxide) afforded 0.15 g (34%) of product as a yellow oil.

reactant | 2-(6-fluorochroman-8-yloxy)ethylchloride | 2.2 mmol, 0.41 g | FC=1C=C2CCCOC2=C(C1)OCCCl | C11H12ClFO2
reactant | 3-(2-bromoethyl)indole | 1.1 mmol, 0.25 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
reactant | triethylamine | 2.2 mmol, 0.23 g | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | [2-(6-Fluorochroman-8-yloxy)ethyl]-[2-(1H-indol-3-yl)ethyl]-amine | 0.15 g, 34% | FC=1C=C2CCCOC2=C(C1)OCCNCCC1=CNC2=CC=CC=C12 | C21H23FN2O2
